US06313310B1
3-Hydroxy-3-(3-hydroxy-4-methoxyphenyl)-1-propyne was prepared according to Method B above from 3-hydroxy-4-methoxybenzaldehyde (0.304 g, 2 mmol) (Aldrich) in THF (20 mL) and ethynylmagnesium chloride (5 mmol, 10 mL, 0.5M solution in tetrahydrofuran) (Aldrich). (Yield 273 mg, 77%).

reactant | 3-hydroxy-4-methoxybenzaldehyde | 2 mmol, 0.304 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | ethynylmagnesium chloride | 5 mmol, 0.5M, 10 mL | C(#C)[Mg]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-(3-hydroxy-4-methoxyphenyl)-1-propyne | OC(C#C)C1=CC(=C(C=C1)OC)O | C10H10O3
